US09102591B2
A solution of 4-(2-methylpyrimidin-5-yl)tetrahydro-2H-pyran-4-carboxylic acid (4.0 g, 18.02 mmol), N,O-dimethylhydroxylamine hydrochloride (2.1 g, 21.6 mmol), HOBt (2.92 g, 21.6 mmol), EDCI.HCl (4.15 g, 21.62 mmol) and DIPEA (15.6 mL, 90.1 mmol) in DMF (50 mL) was stirred at room temperature overnight. To the reaction mixture was added water and extracted with EtOAc (3×200 mL). The organic layer was washed with brine, dried over Na2SO4 and concentrated to give crude product, which was purified by flash column chromatography (EtOAc:petroleum ether=1:1) to give N-methoxy-N-methyl-4-(2-methylpyrimidin-5-yl)tetrahydro-2H-pyran-4-carboxamide (3.0 g, yield: 63%). 1H NMR (CDCl3 400 MHz): δ8.55 (s, 2H), 3.90-3.75 (m, 4H), 3.14 (s, 3H), 2.95 (s, 3H), 2.72 (s, 3H), 2.55-2.45 (m, 2H), 2.06-1.95 (m, 2H).

reactant | 4-(2-methylpyrimidin-5-yl)tetrahydro-2H-pyran-4-carboxylic acid | 18.02 mmol, 4.0 g | CC1=NC=C(C=N1)C1(CCOCC1)C(=O)O | C11H14N2O3
reactant | N,O-dimethylhydroxylamine hydrochloride | 21.6 mmol, 2.1 g | Cl.CNOC
reactant | HOBt | 21.6 mmol, 2.92 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI.HCl | 21.62 mmol, 4.15 g | CCN=C=NCCCN(C)C.Cl
reactant | DIPEA | 90.1 mmol, 15.6 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-methoxy-N-methyl-4-(2-methylpyrimidin-5-yl)tetrahydro-2H-pyran-4-carboxamide | 3.0 g, yield: 63% | CON(C(=O)C1(CCOCC1)C=1C=NC(=NC1)C)C | C13H19N3O3
